US05304560
To a stirred suspension of 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-nitro-2,4(1H,3H)-quinazolinedione (840 mg) in dry ethanol (30 ml) was added tin(II) chloride (1.90 g) at 80° C. After stirring for 3 hours, the mixture was quenched with 2N potassium hydroxide, diluted with chloroform. The organic layer was decanted and the residue was washed with chloroform. Combined organic layer was dried over magnesium sulfate and evaporated. 1-[4-(4-Phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-amino-2,4(1H,3H)-quinazolinedione hydrochloride (546 mg) as a crystal was obtained by recrystallization from 10% hydrogen chloride in methanol.

reactant | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-nitro-2,4(1H,3H)-quinazolinedione | 840 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC(C2=CC=C(C=C12)[N+](=O)[O-])=O)=O | C23H24N4O4
reactant | tin(II) chloride | 1.90 g | [Sn](Cl)Cl
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-[4-(4-Phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-amino-2,4(1H,3H)-quinazolinedione hydrochloride | 546 mg | Cl.C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC(C2=CC=C(C=C12)N)=O)=O | InChI=1S/C23H26N4O2.ClH/c24-19-8-9-20-21(16-19)27(23(29)25-22(20)28)13-5-4-12-26-14-10-18(11-15-26)17-6-2-1-3-7-17;/h1-3,6-10,16H,4-5,11-15,24H2,(H,25,28,29);1H
